US06559145B2
1-(2-Chloro-5-(4-morpholinylmethyl)-3-thienyl)ethanone [BQ.4]
4-((4-Bromo-5-chloro-2-thienyl)methyl)morpholine (Preparation 62, 7.65 g) is dissolved in diethyl ether (75 mL) and is cooled to −75° C. A solution of n-butyllithium (2.5 M in hexane, 11.0 mL) is added via addition funnel, maintaining the temperature below 68° C. The reaction is stirred for 15 minutes at −70° C. and allowed to warm to 0° C. A solution of N-methoxy-N-methylacetamide (3.09 g) in ether (5 mL) is added via addition funnel, maintaining the temperature below 5° C. The reaction is stirred at 0° C. for 1 h and allowed to warm to rt. The reaction is quenched with saturated aq. NH4Cl solution (50 mL) and made basic with sat. aq. NaHCO3. The mixture is extracted with ethyl acetate (3×125 mL). The combined organic layers are washed with sat. NaHCO3 (2×100 mL) and brine (50 mL). The combined aqueous washes are back-extracted with ethyl acetate (100 mL). The organic layers are combined, dried (Na2SO4), and concentrated in vacuo to a yellow oil. The crude product is chromatographed, eluting with 25% ethyl acetate/heptane to afford 2.42 g (37%) of the title compound. Physical characteristics: 1H NMR (400 MHz, DMSO-d6) δ 7.33, 3.64, 3.58, 2.51; IR (liq.) 2854, 2809, 1673, 1456, 1372, 1351, 1328, 1243, 1212, 1165, 1118, 1034, 1008, 867, 618 cm−1; HRMS (FAB) m/z 260.0506 (C11H14ClNO2S+H). Anal. Found: C, 50.77; H, 5.51; N, 5.35; Cl, 13.24; S, 12.00.

reactant | 4-((4-Bromo-5-chloro-2-thienyl)methyl)morpholine | 7.65 g | BrC=1C=C(SC1Cl)CN1CCOCC1 | C9H11BrClNOS
reactant | n-butyllithium | 2.5 M, 11.0 mL | C(CCC)[Li]
reactant | N-methoxy-N-methylacetamide | 3.09 g | CON(C(C)=O)C | C4H9NO2
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | 1-(2-Chloro-5-(4-morpholinylmethyl)-3-thienyl)ethanone | 2.42 g, 37% | ClC=1SC(=CC1C(C)=O)CN1CCOCC1 | C11H14ClNO2S
